US04656298
A solution of 17.0 g of ethyl 1-methyl-2-cyanoethyl(diethoxymethyl)phosphinate in 150 ml of ethanol is added to 155.0 g of an 8% solution of ammonia in ethanol. To this are added 10 ml of Raney Nickel and the resulting mixture is hydrogenated at 1 bar until the theoretical amount of hydrogen has been taken up. The mixture is then filtered and the filtrate is concentrated under reduced pressure and the crude product is distilled under reduced pressure to give ethyl 3-amino-1-methylpropyl(diethoxymethyl)phosphinate, b.p. 140° C./0.01 mbar, 31P=+47.0 and +46.7 ppm (CDCl3).

reactant | ethyl 1-methyl-2-cyanoethyl(diethoxymethyl)phosphinate | 17.0 g | CC(CC#N)P(OCC)(=O)C(OCC)OCC | C11H22NO4P
reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | Raney Nickel | 10 ml | [Ni] | Ni
product | ethyl 3-amino-1-methylpropyl(diethoxymethyl)phosphinate | NCCC(C)P(OCC)(=O)C(OCC)OCC | C11H26NO4P
